US04283341
To a solution of 3-methyl-1-trichloromethyl-2-butenyl acetoacetate (5.75 g, 0.02 mole) and triethylamine (2.02 g, 0.02 mole) in 50 ml of acetonitrile was added a solution of tosyl azide (3.94 g, 0.02 mole, prepared according to the method of Organic Synthesis Collective Volume V, page 179A) in acetonitrile dropwise over a period of 10 minutes. The resultant mixture, containing the thus produced 3-methyl-1-trichloromethyl-2-butenyl-2-diazoacetoacetate, was stirred at room temperature for two hours and then poured into 60 ml (0.06 mole) of 1N aqueous sodium hydroxide. The resulting mixture was stirred at room temperature for 30 minutes and then extracted with about 100 ml of ether. After phase separation, the aqueous layer was extracted with an additional 150 ml portion of ether, and the ether extracts were combined. The ethereal solution was then washed ten times with 50 ml portions of 3% aqueous potassium hydroxide containing sodium chloride and then three times with 50 ml portions of saturated aqueous sodium chloride. The washed ethereal solution was dried over magnesium sulfate, and the ether was removed by evaporation, affording a brown oily residue. The residue was purified by column chromatography on silica gel using benzene as the eluent, to give 3-methyl-1-trichloromethyl-2-butenyl diazoacetate (4.63 g, 85% yield).

reactant | 3-methyl-1-trichloromethyl-2-butenyl acetoacetate | 0.02 mole, 5.75 g | C(CC(=O)C)(=O)OC(C=C(C)C)C(Cl)(Cl)Cl | C10H13Cl3O3
reactant | triethylamine | 0.02 mole, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | tosyl azide | S(=O)(=O)(C1=CC=C(C)C=C1)N=[N+]=[N-] | C7H7N3O2S
reactant | sodium hydroxide | 0.06 mole, 1N, 60 ml | [OH-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-methyl-1-trichloromethyl-2-butenyl diazoacetate | 4.63 g, 85% yield | [N+](=[N-])=CC(=O)OC(C=C(C)C)C(Cl)(Cl)Cl | C8H9Cl3N2O2
